US05068325
12a) (Z)-2-Amino-6-(3-(3-pyridyl)-2-propen-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared by catalytic hydrogenation of 2-amino-6 -(3-(3-pyridyl)-2-propyn-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine with palladium/barium sulphate (5%) in ethanol. Yield: 42% of theory, Melting point: 125°-126° C. (acetone).

reactant | 2-amino-6 -(3-(3-pyridyl)-2-propyn-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCN(CCC2N1)CC#CC=1C=NC=CC1 | C15H16N4S
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium barium sulphate | [Pd].S(=O)(=O)([O-])[O-].[Ba+2]
product | (Z)-2-Amino-6-(3-(3-pyridyl)-2-propen-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 42% | NC=1SC=2CCN(CCC2N1)C\C=C/C=1C=NC=CC1 | C15H18N4S
